US07705053B2
Production of 4-methoxy-3-N-naphthalen-2-yl-isophthalamide (Compound 1-3-47)
The captioned compound was synthesized from 6-methoxyisophthalamic acid and 2-naphthaleneamine by the same procedure as in the manufacturing method described in step C of Example 1-3-1.

reactant | 6-methoxyisophthalamic acid | COC1=CC=C(C=C1C(=O)O)C(=O)N | C9H9NO4
reactant | 2-naphthaleneamine | C1=C(C=CC2=CC=CC=C12)N | C10H9N
product | 4-methoxy-3-N-naphthalen-2-yl-isophthalamide | COC1=C(C=C(C(=O)N)C=C1)C(=O)NC1=CC2=CC=CC=C2C=C1 | C19H16N2O3
